US06380218B1
2-(3-Chloro-phenoxy)-nicotinamide
A solution of 2-(3-Chloro-phenoxy)-nicotinonitrile (7.81 grams, 33.9 mmole), 3% hydrogen peroxide (190 ml, 169 mmole) and 50% potassium hydroxide (380 ml, 3.39 mmole) in ethanol (100 ml) was stirred at 70° C. over night. The mixture was concentrated to 250 ml and cooled to 0° C. A solid was isolated by filtration, dissolved in ethyl acetate, dired over magnesium sulfate and concentrated to a white solid (6.51 g). M.P. 225-228° C.; MW 248.67; MS (m/e) 250 (M++1).

reactant | 2-(3-Chloro-phenoxy)-nicotinonitrile | 33.9 mmole, 7.81 grams | ClC=1C=C(OC2=C(C#N)C=CC=N2)C=CC1 | C12H7ClN2O
reactant | hydrogen peroxide | 169 mmole, 190 ml | OO | H2O2
reactant | potassium hydroxide | 3.39 mmole, 380 ml | [OH-].[K+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Chloro-phenoxy)-nicotinamide | ClC=1C=C(OC2=C(C(=O)N)C=CC=N2)C=CC1 | C12H9ClN2O2
